US07838543B2
Step 3. Dimethyl-[1-(5-nitro-benzooxazol-2-yl)-pyrrolidin-3-yl]-amine
Suspend 2-methylsulfanyl-5-nitro-benzooxazole (1.68 g, 7.99 mmol) in toluene (8 mL). Add (3R)-(+)-3-(dimethylamino)pyrrolidine (1.8 mL) and heat to 70° C. overnight. Cool the reaction to room temperature, dilute with toluene (10 mL) and filter. Wash the product with toluene (5 mL) and hexane (10 mL). Dry on the filter flask for 30 min to afford the title compound (1.00 g, 45%). 1H NMR (400 MHz, DMSO-d6): δ 8.03 (d, 1H, J=2.2 Hz), 7.94 (dd, 1H, J=8.6, 2.4 Hz), 7.62 (d, 1H, J=8.8 Hz), 3.81 (dd, 1H, J=10.1, 7.0 Hz), 3.75 (m, 1H), 3.57 (dt, 1H, J=10.0, 7.2 Hz), 3.34 (m, 1H), 2.86 (m, 1H), 2.21-2.13 (m, 7H), 1.87 (m, 1H).

reactant | 2-methylsulfanyl-5-nitro-benzooxazole | 7.99 mmol, 1.68 g | CSC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H6N2O3S
reactant | (3R)-(+)-3-(dimethylamino)pyrrolidine | 1.8 mL | CN([C@H]1CNCC1)C | C6H14N2
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Dimethyl-[1-(5-nitro-benzooxazol-2-yl)-pyrrolidin-3-yl]-amine | 1.00 g, 45% | CN(C1CN(CC1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-])C | C13H16N4O3
